US06664412B2
Methyl (S)-2-t-butoxycarbonylamino-6-methyl-6-nitroheptanoate
Methyl (S)-2-amino-6-methyl-6-nitroheptanoate hydrochloride (21.9 g) was dissolved in methanol (88.5 ml) and water (40 ml) and the mixture was adjusted to pH 7.5 with saturated aqueous sodium hydrogencarbonate solution. di-tert-Butyl-dicarbonate (21.9 g, 100.4 mmol) was dissolved in methanol (44 ml) and added, and the mixture was stirred at room temperature for 1 h and at 40° C. for 2 h. Methanol was evaporated by concentration under reduced pressure and the residue was extracted with ethyl acetate (400 ml). The extract was washed with 0.5 mol/l hydrochloric acid (100 ml), saturated aqueous sodium hydrogencarbonate solution (100 ml) and saturated brine (100 ml) and dried over anhydrous magnesium sulfate. The anhydrous magnesium sulfate was removed by filtration and the residue was concentrated under reduced pressure to give the objective compound (25.7 g, yield 80.5%).

reactant | Methyl (S)-2-amino-6-methyl-6-nitroheptanoate hydrochloride | 21.9 g | Cl.N[C@H](C(=O)OC)CCCC(C)([N+](=O)[O-])C
reactant | water | 40 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | di-tert-Butyl-dicarbonate | 100.4 mmol, 21.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 88.5 ml | CO | CH4O
solvent | methanol | 44 ml | CO | CH4O
product | Methyl (S)-2-t-butoxycarbonylamino-6-methyl-6-nitroheptanoate | 25.7 g, yield 80.5% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CCCC(C)([N+](=O)[O-])C | C14H26N2O6
